* O:\VSD Intern\LT spice\Schematics\AND.asc
M1 N004 A N007 N005 NMOS l=0.13u w=0.13u
M2 Vdd A N004 N002 PMOS l=0.13u w=0.13u
V1 Vdd 0 1.8
V2 A 0 PULSE(0 1.8 0 0 0 5 10)
M3 N007 B 0 N008 NMOS l=0.13u w=0.13u
M4 Vdd B N004 N003 PMOS l=0.13u w=0.13u
V3 B 0 1.8
M5 Y N004 0 N006 NMOS l=0.13u w=0.13u
M6 Vdd N004 Y N001 PMOS l=0.13u w=0.13u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\hi\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 50
.backanno
.end
